* PEX produced on Thu Jul 23 04:49:53 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=1 and s=1
* NGSPICE file created from sg13_lv_pmos_tap_pex.ext - technology: ihp-sg13g2

.subckt sg13_lv_pmos_tap_pex G D S B
X0 S G D B sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
C0 S sub 0.13034f
C1 D sub 0.13034f
C2 B sub 0.09759f
.ends

